US04279918
2-(4-aminobenzyl)-1-methylpyrrolidine
Boil 2.04 g of 5-(4-aminobenzyl)-1-methylpyrrolidin-2-one and 0.7 g of lithium aluminum hydride under reflux for 20 hours in 20 ml of tetrahydrofuran. Decompose the resulting reaction product by admixing it with ice water. After adding 10 ml of 6 N sodium hydroxide solution to the decomposed product, extract it with diethyl ether. Dry the ether extract over sodium sulfate and concentrate it to obtain the title compound in free-base form. Convert the thus-obtained base into the dihydrochloride [m.p. (from methanol/ether)>242° (decomp.)] with methanol/ethereal hydrochloric acid.

reactant | 5-(4-aminobenzyl)-1-methylpyrrolidin-2-one | 2.04 g | NC1=CC=C(CC2CCC(N2C)=O)C=C1 | C12H16N2O
reactant | lithium aluminum hydride | 0.7 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 6 N, 10 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2-(4-aminobenzyl)-1-methylpyrrolidine | NC1=CC=C(CC2N(CCC2)C)C=C1 | C12H18N2
